Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Cough, SOB
 
Major Surgical or Invasive Procedure:
___
FLEXIBLE BRONCOHOSCOPY; BRONCHIAL ALVEOLAR LAVAGE; 
TRANSBRONCHIAL BIOPSY

 
History of Present Illness:
Ms. ___ is a ___ with h/o asthma who presents for SOB
for 3 days and cough for 24 hours. Reports has been using her
inhaler with intermittent relief. Denies fever, chills, chest
pain. Reports has had persistent cough with phlegm though not
able to get much all the way up. She has felt some chest
tightness during this time but no chest pressure or 
palpitations.
Reports one previous exacerbation ___ years ago, visited ED but
not admitted to the hospital. Denies subjective fevers or 
chills,
weight change, abdominal pain, n/v/d, dysuria. Reports her
daughter has been sick with a respiratory infection but unsure
exactly what. Recently traveled to ___ from ___, no international
travel history.
 
In the ED:
- Initial vital signs were: 98 101 130/89 18 94% RA 

- Exam notable for:  
speaking in full sentences
repeated coughing with phlegm production
b/l wheezing

- Labs were notable for:
Flu negative
Serum UCG negative
Otherwise unremarkable

- Studies performed include:
1. Ill-defined soft tissue in the right hilum and suprahilar
regions severely narrows right upper lobe bronchus and
subsegmental bronchi causing complete upper lobe collapse, also
encasing and mildly narrowing the bronchus intermedius and lower
and middle lobe bronchi. This is concerning for malignancy
although a less likely consideration would be tuberculosis.
Transbronchial biopsy recommended.
2. Hypoenhancing regions in the collapsed right upper lobe makes
superimposed post obstructive pneumonia possible in the right
clinical scenario.
3. Prominent right hilar and mediastinal lymph nodes although 
the
right hilar soft tissue nodules may also reside within the
pulmonary parenchyma.
4. Right lower lobe 2 mm pulmonary nodule.
5. Small airways disease.

- Patient was given:
___ 08:31 IH Albuterol 0.083% Neb Soln 1 NEB   
___ 08:31 IH Ipratropium Bromide Neb 1 NEB  
___ 08:31 PO PredniSONE 60 mg 
___ 11:58 IVF  NS 1000 mL  
___ 14:54 IV CefTRIAXone 1 g   
___ 16:13 IV Azithromycin 500 mg 

- Consults: none

- Vitals on transfer: 98.7 104 136/91 18 94% RA  

Upon arrival to the floor, the patient is well-appearing and in
no acute distress. She states that her SOB is improved compared
to this morning. She is aware that her chest CT was concerning
for PNA vs lung cancer and states "it is what it is". 
 
Past Medical History:
Asthma dx at 6mo with one prior ED visit for exacerbation (___)
 
Social History:
___
Family History:
-Paternal Uncle (smoker) and MGM (non-smoker) with lung cancer
-Father living (___) w/ throat cancer
-Mother living (___) w/ DM, CKD, Asthma, former smoking
-Brother with DM
-PGM Breast cancer
-PGF MI 
-MGF ruptured aneurysm 
 
Physical Exam:
Admission Physical Exam: 
VITALS: 98.3 103 107/65 16 96%RA   
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes, poor
dentition. Oropharynx is clear.  
NECK: No cervical or supraclavicular lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, tachycardic. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Marked inspiratory and expiratory wheezes bilaterally in
all lung fields. No increased work of breathing.
BACK: No spinous process tenderness. 
ABDOMEN: Limited bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. Normal sensation. Gait is normal. 
AOx3.

Discharge Physical Exam: 
___ ___ Temp: 98.1 PO BP: 123/75 R Sitting HR: 105 RR: 18 
O2 sat: 96% O2 delivery: RA 
General: alert, oriented, no acute distress. Cleaning up her 
room.
Eyes:  Sclera anicteric
HEENT: MMM, oropharynx clear  
Neck: supple, no LAD  
Resp: Clear to auscultation bilaterally. No wheezing or rales.
CV: regular rate and rhythm, normal S1 + S2.
GI: soft, non-tender, non-distended.
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal.
 
Pertinent Results:
IMAGING
====================
CXR ___
Complete right upper lobe collapse with nodular opacity in the 
right hila 
concerning for postobstructive pneumonia or atelectasis. 
Contrast-enhanced CT chest is recommended to further evaluate 
for right hilar mass and mediastinal lymphadenopathy. 

CT Chest ___:
1. Ill-defined soft tissue in the right hilum and suprahilar 
regions severely narrows right upper lobe bronchus and 
subsegmental bronchi causing complete upper lobe collapse, also 
encasing and mildly narrowing the bronchus intermedius and lower 
and middle lobe bronchi. This is concerning for malignancy 
although a less likely consideration would be tuberculosis. 
Transbronchial biopsy recommended.
2. Hypoenhancing regions in the collapsed right upper lobe makes 
superimposed post obstructive pneumonia possible in the right 
clinical scenario.
3. Prominent right hilar and mediastinal lymph nodes although 
the right hilar soft tissue nodules may also reside within the 
pulmonary parenchyma.
4. Right lower lobe 2 mm pulmonary nodule.
5. Small airways disease.

CT Abd ___:
1. No evidence of metastatic disease within the abdomen or 
pelvis. 
2. Fibroid uterus.  Trace pelvic free fluid is likely 
physiologic. 
3. New trace right pleural effusion. 

CXR ___
Right upper lobe atelectasis mostly resolved with persistent 
partial 
atelectasis of the posterior segment which projects over the 
hilus. 
No evidence of pneumothorax, no pleural effusion. 
  
MICROBIOLOGY
=============================
Blood cultures - negative
Sputum culture - commensal respiratory flora
C-Diff - negative
BAL cultures - pending at time of d/c

BAL cytology - pending at time of d/c

ADMISSION LABS
=============================
___ 10:13AM BLOOD WBC-7.2 RBC-4.64 Hgb-13.1 Hct-39.5 MCV-85 
MCH-28.2 MCHC-33.2 RDW-13.8 RDWSD-43.4 Plt ___
___ 10:13AM BLOOD Glucose-100 UreaN-10 Creat-0.8 Na-140 
K-4.2 Cl-101 HCO3-25 AnGap-14
___ 06:55AM BLOOD ALT-15 AST-20 LD(LDH)-179 AlkPhos-64 
TotBili-0.5
___ 10:13AM BLOOD Calcium-9.5 Phos-3.0 Mg-2.1

DISCHARGE LABS
=============================
___ 06:55AM BLOOD WBC-5.5 RBC-4.29 Hgb-12.0 Hct-36.5 MCV-85 
MCH-28.0 MCHC-32.9 RDW-14.0 RDWSD-43.6 Plt ___
___ 06:55AM BLOOD Glucose-94 UreaN-9 Creat-0.8 Na-141 K-3.9 
Cl-104 HCO3-22 AnGap-___ with history of asthma who presented with cough, SOB, and 
evidence of
post-obstructive PNA on CT Chest. She initially had imaging 
concerning for an intra-bronchial mass, but ultimately 
bronchoscopy was negative for evidence of malignancy.

#Acute Asthma exacerbation:
Pt has known history of asthama, requiring albuterol inhaler at 
baseline, and reports frequent exacerbations in setting of 
travel from south to ___ and changes in weather. Received 
duonebs q6h and albuterol inhaler PRN. Also started on 
prednisone burst 40 mg for 5 days ___ - ___, which she 
should continue at discharge. Encouraged incentive 
spirometry/acapella device and able to get to 1500 mL on IS.

#Bacterial Pneumonia, post-obstructive: 
Believed to be ikely secondary to obstruction and lung collapse. 
She was started on a broad spectrum empiric regimen that was 
narrowed to levofloxacin 750 mg qd for 5 days ___ - ___. 
Sputum culture did not grow a pathogen but showed respiratory 
flora. Repeat CXR ___ showed improvement in atelectasis.

#Possible RUL mass: 
Originally presented with RUL collapse and pulmonary mass on 
Chest CT. Differential included mucus plugging from asthma 
exacerbation or primary lung malignancy, possible bronchogenic 
carcinoma given central location and lung collapse. 
Interventional Pulmonology was consulted and undertook a 
bronchoscopy with BAL and biopsy on ___. Bronchoscopy was 
unrevealing for endothoracic malignancy and only showed mild 
erythema and inflammation consistent with asthma exacerbation.  
CT abdomen was conducted to investigate for possible evidence of 
malignancy, and was negative.  Ultimately, RUL collapse was most 
likely due to mucous plugging from asthma.

#Loose stools:
Developed loose stools in hospital. C diff negative. Believed to 
be adverse effect of Levaquin or PO contrast. ___ use loperamide 
and probiotics as an outpatient.

TRANSITIONAL ISSUES:
# Continue prednisone 40 mg for 2 more days ___ and ___
# Continue levofloxacin 750 mg daily for 2 more days ___ and 
___
# Continue loperamide 2 mg daily for loose stools/diarrhea as 
needed
# BAL cytology pending at time of discharge
# ___ with Interventional Pulmonary in clinic in 2 weeks 
time. They will also call with the results of cytology and 
biopsy if it comes earlier, or else discuss this in clinic. She 
will also require a ___ Chest CT in ___ weeks.  All of 
this is to be scheduled by Interventional Pulmonology; exact 
dates pending at time of discharge.  They will call the patient.
# Down the road, should consider starting an asthma control 
medication (such as Advair) as an outpatient at ___ ___. 
She is currently requiring her albuterol inhaler several times 
daily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN sob 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY 
Take 750 mg daily for two more days, ___ and ___. 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0 
2.  LOPERamide 2 mg PO TID:PRN Diarrhea/loose stools 
Take this medicine only if you are having loose stools/diarrhea. 

RX *loperamide 2 mg 1 capsule by mouth three times daily Disp 
#*30 Capsule Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 2 Days 
Take 40 mg daily for 2 more days ___ and ___. 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0 
4.  Albuterol Inhaler ___ PUFF IH Q4H:PRN sob  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation
Pneumonia
Right upper lobe collapse (resolved)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

You were admitted to the hospital because you had difficulty 
breathing and a cough. We thought this was mostly likely an 
exacerbation of your chronic asthma with possible pneumonia or 
infection. We also saw an abnormality on your imaging that was 
suggestive of either mucus plugging or possible cancer. You were 
treated with steroids, antibiotics, and breathing treatments, 
which helped your breathing. You also had a bronchoscopy that 
showed no significant abnormalities. Given that your breathing 
has improved and the bronchoscopy was not concerning, we are 
discharging you with a plan to ___ with your primary care 
provider, and with the Interventional Pulmonology team here. 

Please complete your steroid treatment (Prednisone 40 mg daily 
for two more days) and the antibiotic (Levofloxacin 750 mg daily 
for two more days). You should expect a call from the 
Interventional Pulmonology Team to schedule a ___ in two 
weeks time, as well as a repeat CT Chest in ___ weeks. 

Please call your doctor if you have chest pain, shortness of 
breath, or any other symptoms that are concerning for you. 

It was a pleasure taking care of you!

Your ___ Inpatient Care Team
 
Followup Instructions:
___